US20010027196A1
Following the method of Elnagdi and Erian (Arch. Pharm. 1991, 324, 853-858), to a stirred solution of 5.00 g (37.3 mmol) (E or Z)-3-amino-3-furan-2-yl-acrylonitrile in 50 ml dioxane at room temperature was added 7.46 (74.5 mmol) 2-cyanothioacetamide and the reaction mixture heated at reflux for 72 hours. The reaction mixture was then concentrated in vacuo. Chromatography (ethyl acetate/hexane 1/1 then ethyl acetate) afforded 1.40 g (17%) 6-amino-4-furan-2-yl-2-thioxo-1,2-dihydro-pyridine-3-carbonitrile as an orange crystalline solid, ES-MS m/e (%): 218 (M+H+, 100), and 0.46 g (6%) 2,6-diamino-4-furan-2-yl-nicotinonitrile as an orange crystalline solid, ES-MS m/e (%): 201 (M+H+, 100).

reactant | 3-amino-3-furan-2-yl-acrylonitrile | NC(=CC#N)C=1OC=CC1 | C7H6N2O
reactant | 2-cyanothioacetamide | C(#N)CC(=S)N | C3H4N2S
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | 6-amino-4-furan-2-yl-2-thioxo-1,2-dihydro-pyridine-3-carbonitrile | 1.40 g, 17% | NC1=CC(=C(C(N1)=S)C#N)C=1OC=CC1 | C10H7N3OS
